US07368578B2
A mixture of 1-{1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1H-pyrazol-4-yl}-1-ethanol (0.15 g), activated manganese dioxide (0.50 g) and tetrahydrofuran (50 mL) was stirred at room temperature for 4 days. Manganese dioxide was removed by filtration, and the filtrate was concentrated. The obtained crystals were collected by filtration to give 1-{1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1H-pyrazol-4-yl}-1-ethanone (0.13 g, yield 87%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 144-145° C.

reactant | 1-{1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1H-pyrazol-4-yl}-1-ethanol | 0.15 g | C(C1=CC=CC=C1)N1N=C(C(=C1)C(C)O)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OC | C29H29N3O6
catalyst | manganese dioxide | 0.50 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-{1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1H-pyrazol-4-yl}-1-ethanone | 0.13 g, yield 87% | C(C1=CC=CC=C1)N1N=C(C(=C1)C(C)=O)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OC | C29H27N3O6
